* PSpice Model Editor - Version 16.2.0
*$
*LM5106
*****************************************************************************
*  (C) Copyright 2017, 2014 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center,Texas Instruments Inc.
* Part: LM5106
* Date: 03MAR2017
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SNVS424B-JANUARY 2006-REVISED OCTOBER 2009
*
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Updates:
* Final 1.20
*<Made this change to the model>
*       1. Internal boot diode has been removed.
*      
*
* Final 1.10
*<Made this change to the model>
*       1. Added VSS as internal reference to IN,EN and VDD as per datasheet
*
* Final 1.00
* Release to Web
*
*****************************************************************************
.SUBCKT LM5106_TRANS VDD HB HO HS RDT EN IN VSS LO
*Input side pull down resistor
rin  in vss 200k
*non-inverting schmitt trigger
esch_input 10 0 value={if(v(in,vss)>1.8,12,0)}
*inverter 
einverter 50 0 value={if(v(10)<6,12,0)} 
* vdd internal voltage
evdd vddint 0 value={v(vdd,vss)}
*Enable side pull down resistor
renable  en vss 200k
* Enable Input
e_enable en_out 0 value={if(v(en,vss)>1.8,12,0)}
T_EN   en_del 0  en_out 0 zo=1000 td=4n
R_EN   en_del 0 1000
*uvlo for vdd supply voltage
xuvlo_vdd vddint vdout COMPHYST_VD 
* High and Low side data
eand_hi 11 0 value={if(v(10)>6 & v(en_del)>6 & v(vdout)>6,12,0)} 
eand_lo 51 0 value={if(v(50)>6 & v(en_del)>6 & v(vdout)>6,12,0)}
*bootstrap diode** This internal boot diode is removed as it is not connected internally
*dbst  vdd hb dboot
*.model dboot d (is=6.304P n=1.392 rs=0.8)
RB HB 0 1E12
ebst hbs 0 value={v(hb,hs)}
*uvlo for bootstrap 
xuvlo_bst hbs bstout COMPHYST_BST
*input to the high side gate driver
eand2 12 0 value={if(v(11)>6 & v(y)>6 & v(bstout)>6,12,0)}
T1    13 0  12 0 zo=1000 td=32n
Rterm1 13 0 1000
*** high side driver
rdummy1 hs hs1 1
cdummy1 hs1 0  100p
ehsvdd hbs_vdd 0  value={v(hbs)+v(hs1)} 
xhighside  13 ho hbs_vdd hs HIGHSIDE_DRIVER
*input to the lo side gate driver
enad3 52 0 value={if(v(x)>6 & v(51)>6,12,0)}
T2    53 0 52 0 zo=1000 td=32n
Rterm2 53 0 1000
*** low side driver
xlowside 53 lo vdd vss LOWSIDE_DRIVER
*Leading Edge Delay
xdeadtimer 13 53 RDT X Y DEADTIME
.ENDS LM5106_TRANS
*$
.SUBCKT COMPHYST_VD IN OUT
e12 out 0 value ={if((v(out)<6 & v(in)>7.15 ) | ( v(out)>6 & v(in)>6.65) ,12,0) }
.ENDS COMPHYST_VD
*$
.SUBCKT COMPHYST_BST IN OUT
e12 out 0 value ={ if((v(out)<6 & v(in)>6.8 ) | ( v(out)>6 & v(in)>6.4 ) ,12,0) }
.ENDS COMPHYST_BST
*$
.SUBCKT INV IN VOUT VDD VSS  
e12 vout vss value ={if(v(in)>6,0,v(vdd,vss))}
.ENDS INV 
*$
.SUBCKT HIGHSIDE_DRIVER IN HO VDD_HS VSS_HS
xinv in ho_inv vdd_hs vss_hs INV 
m1 ho ho_inv vdd_hs vdd_hs _m1
m2 ho ho_inv vss_hs vss_hs _m2
.model _m1 pmos w=500u l=0.6u
.model _m2 nmos w=750u l=0.6u
.ENDS HIGHSIDE_DRIVER
*$
.SUBCKT LOWSIDE_DRIVER IN LO VDD_LS VSS_LS
xinv IN lo_inv vdd_ls vss_ls INV 
m1 lo lo_inv vdd_ls vdd_ls _m1
m2 lo lo_inv vss_ls vss_ls _m2
.model _m1 pmos w=500u l=0.6u
.model _m2 nmos w=750u l=0.6u   
.ENDS LOWSIDE_DRIVER
*$
.SUBCKT DEADTIME HO LO RT HO_OUT LO_OUT  
v1 1 0 dc=3
rlimit 1 101 2k
vdummy 101 rt 
e2 10 0 table {i(vdummy)} (0,0) (19.7u, 35.4u) (21.0u,37.9u) (22.6u,40.7u)
+(24.6u,44.3u) (26.8u,48.5u)(29.4u,53.2u)(32.4u,58.9u)(36.4u,66.2u)
+(40.9u,74.5u)(47.9u,88.3u) (56.5u,106.3u)(70.3u,133.7u) 
+(93.0u,180.1u)(135.6u,284.3u) (250.0u,657.0u)
vref 5 0 dc=2
vvdd 8 0 dc=12
g1ho 0 3_ho value={i(vdummy)+v(10)}
c1ho 3_ho 0 22.10p
s1ho 3_ho 0 ho 0 _s1ho
.model _s1ho vswitch ron=1 roff=10meg von=1 voff=0
s2ho 8 ho_out 3_ho 5 _s2ho
.model _s2ho vswitch ron=1 roff=10meg von=0.1 voff=-0.1
r_s2ho ho_out 0 1k
g1lo 0 3_lo value={i(vdummy)+v(10)}
c1lo 3_lo 0 22.10p
s1lo 3_lo 0 lo 0 _s1lo
.model _s1lo vswitch ron=1 roff=10meg von=1 voff=0
s2lo 8 lo_out 3_lo 5  _s2lo
.model _s2lo vswitch ron=1 roff=10meg von=0.1 voff=-0.1
r_s2lo lo_out 0 1k
.ENDS DEADTIME
*$
.SUBCKT POWERMOS G D S PARAMS: RDSON=16m Ciss=1375p Crss=70p Coss=340p VSP=3.5 RG=1
* This is a simple model for Power MOSFET.
* The parameters modeled are
* - RDSon,
* - Input Capacitance,
* - Reverse capacitance,
* - Output capacitance,
* - Switching point voltage (Gate voltage where the FET starts switching),
* - Gate Resistance
C_C1         S Da  {Coss} IC=0
R_R1         Da D  10
C_C2         Ga D  {Crss}  IC=0
R_R2         G Ga {RG}
C_C3         Ga S  {Ciss} IC=0
D_D1         S Db Dbreak
R_R3         Db D 1m
S_switchM         D S Ga S _switchM
RS_switchM         Ga S 100Meg
.MODEL         _switchM VSWITCH Roff=100e6 Ron={RDSON} Voff=1.1 Von={VSP}
.model Dbreak D Is=1e-14 Cjo=.1pF Rs=0.01
.ENDS POWERMOS
*$
.SUBCKT D_D1 1 2
D1 1 2 DD1
.MODEL DD1 D( IS=1e-15 TT=10p Rs=0.05 N=0.1  )
.ENDS D_D1
*$